US06495546B1
To a solution of 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid (200 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (122 mg) and 1-hydroxyenzotriazole hydrate (66 mg) in dichloromethane (20 ml) was added dimethylamine hydrochloride (38.4 mg), and the mixture was stirred at room temperature for 18 hours. The resulting mixture was diluted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel and treated with 4N hydrogen chloride in ethyl acetate to afford 2-[8-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]-N,N-dimethylacetamide (100 mg).

reactant | 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid | 200 mg | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)OCC(=O)O | C27H35NO7
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 122 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | dimethylamine hydrochloride | 38.4 mg | Cl.CNC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[8-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]-N,N-dimethylacetamide | 100 mg | O[C@@H](CNC1CCCC2=C(C1)C=C(C=C2)OCC(=O)N(C)C)COC2=CC=CC=C2 | C24H32N2O4
